US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-{5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (158 mg, 0.419 mmol) and triethylamine (63.8 μL, 0.461 mmol) in tetrahydrofuran (5 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (41.9 μL, 0.461 mmol), and the mixture was stirred at room temperature for 1 hr. Cyclopropanecarbonyl chloride (83.8 μL, 0.922 mmol) was further added and the mixture was stirred for 1 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, sodium carbonate (200 mg), methanol (3 mL) and water (100 μL) were added to the residue, and the mixture was stirred at 50° C. for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (hexane/ethyl acetate=50/50→0/100) and recrystallized from ethyl acetate to give the title compound (112 mg, 60%) as a white solid.

reactant | N-{5-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.419 mmol, 158 mg | NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)=N1 | C19H19N7O2
reactant | triethylamine | 0.461 mmol, 63.8 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.461 mmol, 41.9 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Cyclopropanecarbonyl chloride | 0.922 mmol, 83.8 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 112 mg, 60% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)=N1 | C23H23N7O3
